US06774132B1
1′-Ethylspiro[indoline-3,3′-piperidin]-2-one
The compound was prepared according to PROCEDURE 1, Method A by reaction with spiro[indoline-3,3′-piperidin]-2-one and acetaldehyde (5 equivalents). Yield: 45 mg (26%). 13C NMR of the HCl-salt (CD3OD): δ 9.6, 19.8, 31.3, 46.3, 54.2, 54.3, 55.1, 111.5, 123.9, 124.4, 130.4, 131.3, 142.6, 182.3.

reactant | spiro[indoline-3,3′-piperidin]-2-one | N1CC2(CCC1)C(NC1=CC=CC=C12)=O | C12H14N2O
reactant | acetaldehyde | 5 equivalents | C(C)=O | C2H4O
product | 1′-Ethylspiro[indoline-3,3′-piperidin]-2-one | C(C)N1CC2(CCC1)C(NC1=CC=CC=C12)=O | C14H18N2O
